US07727985B2
N-(6-chloro-7-ethoxy-9H-β-carbolin-8-yl)-2-methyl-nicotinamide
The desired compound was prepared according to Method A from 6-chloro-7-ethoxy-9H-β-carbolin-8-ylamine and 2-methylnicotinic acid in 40% yield.

reactant | 6-chloro-7-ethoxy-9H-β-carbolin-8-ylamine | ClC=1C=C2C=3C=CN=CC3NC2=C(C1OCC)N | C13H12ClN3O
reactant | 2-methylnicotinic acid | CC1=C(C(=O)O)C=CC=N1 | C7H7NO2
product | N-(6-chloro-7-ethoxy-9H-β-carbolin-8-yl)-2-methyl-nicotinamide | 40% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1OCC)NC(C1=C(N=CC=C1)C)=O | C20H17ClN4O2
